US07452911B2
3.6d 5-(4-chloro-phenyl)-2-[4-(2-pyrrolidin-1-yl-ethoxy)-3-trifluoromethoxy-phenylethynyl]-pyridine
Prepared according to general working method I from 1-[2-(4-iodo-2-trifluoromethoxy-phenoxy)-ethyl]-pyrrolidine (250 mg, 0.62 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (140 mg, 0.65 mmol).

reactant | 1-[2-(4-iodo-2-trifluoromethoxy-phenoxy)-ethyl]-pyrrolidine | 0.62 mmol, 250 mg | IC1=CC(=C(OCCN2CCCC2)C=C1)OC(F)(F)F | C13H15F3INO2
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 0.65 mmol, 140 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-(4-chloro-phenyl)-2-[4-(2-pyrrolidin-1-yl-ethoxy)-3-trifluoromethoxy-phenylethynyl]-pyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC1=CC(=C(C=C1)OCCN1CCCC1)OC(F)(F)F | C26H22ClF3N2O2
